US06667312B2
Using the general method of Example 1 Part D, N4-(3-chloropropyl)quinoline-3,4-diamine (˜37.6 mmol) was cyclized using 1,1,1-trimethoxyethane (5.43 g, 45.2 mmol) in the presence of pyridine hydrochloride (0.43 g) to provide 7.6 g of 1-(3-chloropropyl)-2-methyl-1H-imidazo[4,5-c]quinoline as a light yellow solid.

reactant | N4-(3-chloropropyl)quinoline-3,4-diamine | ˜37.6 mmol | ClCCCNC1=C(C=NC2=CC=CC=C12)N | C12H14ClN3
reactant | 1,1,1-trimethoxyethane | 45.2 mmol, 5.43 g | COC(C)(OC)OC | C5H12O3
reactant | pyridine hydrochloride | 0.43 g | Cl.N1=CC=CC=C1
product | 1-(3-chloropropyl)-2-methyl-1H-imidazo[4,5-c]quinoline | 7.6 g | ClCCCN1C(=NC=2C=NC=3C=CC=CC3C21)C | C14H14ClN3
